US06455520B1
N-{3-[3-(2-pyridylmethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide
Using an analogous procedure to that described in Example 7, N-[3-(3-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide was reacted with 2-chloromethylpyridine to give the title compound in 58% yield; NMR Spectrum: (DMSOd6) 2.2 (s, 3H), 5.26 (s, 2H), 7.23 (m, 2H), 7.33 (t, 1H), 7.43 (t, 1H), 7.57 (t, 1H), 7.61 (m, 4H), 7.82 (m, 1H), 7.85 (d, 1H), 8.12 (d, 1H), 8.25 (d, 1H), 8.51 (d, 1H), 8.58 (d, 1H), 8.61 (s, 1H), 8.99 (d, 1H), 9.9 (s, 1H), 10.48 (s, 1H); Mass Spectrum: M+H+ 489.

reactant | N-[3-(3-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide | OC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C24H19N3O3
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | N-{3-[3-(2-pyridylmethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide | 58% yield | N1=C(C=CC=C1)COC=1C=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=CC1 | C30H24N4O3
